US07355069B2
N-(2,3-dimethoxybenzyl)-N-heptyl-3-(4-hydroxyphenyl)propanamide 0.196 g, 0.47 mmol) and methyl 2-(bromomethyl)benzoate (0.12 g, 0.52 mmol) was dissolved in acetonitrile (10 ml) and potassiumcarbonate (131 mg, 0.95 mmol) was added. The mixture was stirred at 60° C. for three hours. Polymersupproted trisamine (0.3 eqv) was added and stirred over night. The polymer was filtered of, solvent was removed by evaporation, addition of EtOAc (10 ml) and the organic phase was washed with three potions of water. After drying the crude (MgSO4) and the solvent had been removed by evaporation, the crude was purified by preparative HPLC (started with acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min). The product containing fractions was pooled and the acetonitrile was removed by evaporation. EtOAc (10 ml) was added and the organic phase was washed with two potions of brine and dried (MgSO4). Removing the solvent by evaporation gave 39 mg of methyl 2-[(4-{3-[(2,3-dimethoxybenzyl)(heptyl)amino]-3-oxopropyl}phenoxy)methyl]benzoate (yield 14.6%).

reactant | N-(2,3-dimethoxybenzyl)-N-heptyl-3-(4-hydroxyphenyl)propanamide | 0.47 mmol, 0.196 g | COC1=C(CN(C(CCC2=CC=C(C=C2)O)=O)CCCCCCC)C=CC=C1OC | C25H35NO4
reactant | methyl 2-(bromomethyl)benzoate | 0.52 mmol, 0.12 g | BrCC1=C(C(=O)OC)C=CC=C1 | C9H9BrO2
reactant | potassiumcarbonate | 0.95 mmol, 131 mg | C([O-])([O-])=O.[K+].[K+]
reactant | trisamine | 0.3 eqv | C(C(CO)(CO)N)O | C4H11NO3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | methyl 2-[(4-{3-[(2,3-dimethoxybenzyl)(heptyl)amino]-3-oxopropyl}phenoxy)methyl]benzoate | 39 mg, yield 14.6% | COC1=C(CN(C(CCC2=CC=C(OCC3=C(C(=O)OC)C=CC=C3)C=C2)=O)CCCCCCC)C=CC=C1OC | C34H43NO6
